US06313137B1
Synthesis of 2,3-dimethyl-8-(2-bromo-6-methylbenzylamino)-imidazo[1,2-a]pyridine-6-carboxamide
8-Amino-2,3-dimethylimidazo[1,2-a]pyridine-6-carboxamide mesylate (1.0 g, 5.0 mmol), 2-bromo-6-methylbenzylchloride (45%)(3.0 g, 5.0 mmol) and diisopropylethylamin (2.2 g, 17 mmol) were added to dimethylformamide (50 ml) and stirred at 50° C. for 48 h. Methylene chloride and water were added to the reaction mixture, the organic layer was separated, washed with saturated sodium chloride, dried (Na2SO4) and evaporated under reduced pressure. Purification of the residue twice by column chromatography on silica gel using methylene chloride:methanol (10:1) and ethylacetate as eluent gave 0.18 g (1%) of the desired product.

reactant | 8-Amino-2,3-dimethylimidazo[1,2-a]pyridine-6-carboxamide mesylate | 5.0 mmol, 1.0 g | S(C)(=O)(=O)O.NC=1C=2N(C=C(C1)C(=O)N)C(=C(N2)C)C
reactant | 2-bromo-6-methylbenzylchloride | 5.0 mmol, 3.0 g | BrC1=C(CCl)C(=CC=C1)C | C8H8BrCl
reactant | diisopropylethylamin | 17 mmol, 2.2 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | Methylene chloride | C(Cl)Cl | CH2Cl2
product | 2,3-dimethyl-8-(2-bromo-6-methylbenzylamino)-imidazo[1,2-a]pyridine-6-carboxamide | 0.18 g, 1% | CC=1N=C2N(C=C(C=C2NCC2=C(C=CC=C2C)Br)C(=O)N)C1C | C18H19BrN4O
